US06051712
In an analogous manner to that described in Example 2 (e), by catalytic hydrogenation at atmospheric pressure using a 10% palladium-charcoal catalyst in methanol from tert-butyl (3RS,4RS,5SR)-1-benzyl-5-hydroxymethyl-4-(4-hydroxy-phenyl)-piperidin-3-ol hydrobromide there was obtained (3RS,4RS,5SR)-5-hydroxymethyl-4-(4-hydroxy-phenyl)-piperidin-3-ol hydrobromide as a colourless foam; MS: 224 (M+H)+.

reactant | tert-butyl (3RS,4RS,5SR)-1-benzyl-5-hydroxymethyl-4-(4-hydroxy-phenyl)-piperidin-3-ol hydrobromide | Br.C(C)(C)(C)C1N(CC(C(C1O)C1=CC=C(C=C1)O)CO)CC1=CC=CC=C1
catalyst | palladium-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | (3RS,4RS,5SR)-5-hydroxymethyl-4-(4-hydroxy-phenyl)-piperidin-3-ol hydrobromide | Br.OCC1C(C(CNC1)O)C1=CC=C(C=C1)O | InChI=1S/C12H17NO3.BrH/c14-7-9-5-13-6-11(16)12(9)8-1-3-10(15)4-2-8;/h1-4,9,11-16H,5-7H2;1H
